US05478856
A 5.9 g of sodium borohydride was added to a suspension of 5 g of 5-methoxycarbonylmethyl-3,4-bis(4-methoxyphenyl)isoxazole in 20 ml of methanol, and the resulting mixture was stirred for 1 hour with ice cooling. The reaction mixture was made acidic by portionwise addition of 1N hydrochloric acid and then extracted with 80 ml of ethyl acetate. The organic layer was washed with 20 ml of 1N hydrochloric acid and 20 ml of water in that order, subsequently dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 4.5 g (yield 98%) of 5-(2-hydroxyethyl)-3,4-bis(4-methoxyphenyl)isoxazole.

reactant | sodium borohydride | 5.9 g | [BH4-].[Na+]
reactant | 5-methoxycarbonylmethyl-3,4-bis(4-methoxyphenyl)isoxazole | 5 g | COC(=O)CC1=C(C(=NO1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C20H19NO5
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 5-(2-hydroxyethyl)-3,4-bis(4-methoxyphenyl)isoxazole | 4.5 g, yield 98% | OCCC1=C(C(=NO1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C19H19NO4
